US07157577B2
4-(5-Formyl-2,4-dimethyl-1H-pyrrol-3-yl)-benzoic acid was reacted with 1-methylpiperazine using General Amidation Procedure 1 to give 3,5-dimethyl-4-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-1H-pyrrole-2-carbaldehyde. MS m/z 326 [M+1].

reactant | 4-(5-Formyl-2,4-dimethyl-1H-pyrrol-3-yl)-benzoic acid | C(=O)C1=C(C(=C(N1)C)C1=CC=C(C(=O)O)C=C1)C | C14H13NO3
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 3,5-dimethyl-4-[4-(4-methyl-piperazine-1-carbonyl)-phenyl]-1H-pyrrole-2-carbaldehyde | CC1=C(NC(=C1C1=CC=C(C=C1)C(=O)N1CCN(CC1)C)C)C=O | C19H23N3O2
